US04760163
using isopropyl 2-chloro-4-fluoro-5-{1,2,5,7-tetrahydro-2,4-dioxo-thieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate in dimethylformamide there is obtained isopropyl 2-chloro-4-fluoro-5-{1,2,5,7-tetrahydro-1-methyl-2,4-dioxo-thieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate, 1H--NMR (CDCl3, 400 MHz) 7.82 ppm (d, 1H), 7.35 ppm (d, 1H), 5.23 ppm (m, 1H), 4.24 ppm (m, 2H), 4.09 ppm (m, 2H), 3.45 ppm (s, 3H), 1.36 ppm (d, 6H),

reactant | isopropyl 2-chloro-4-fluoro-5-{1,2,5,7-tetrahydro-2,4-dioxo-thieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC2=C(C1=O)CSC2)=O | C16H14ClFN2O4S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | isopropyl 2-chloro-4-fluoro-5-{1,2,5,7-tetrahydro-1-methyl-2,4-dioxo-thieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CSC2)C)=O | C17H16ClFN2O4S
